US07470679B2
(R)-3-(7-chloro-4-((2,2,2-trifluoroethylamino)methyl)-1H-indazol-5-yl)-1-methoxy-1-oxopropan-2-yl benzoate (7.75 g, 16.5 mmol) in toluene (70.00 ml, 657 mmol) was added acetic acid (1.2 ml, 20.96 mmol) and refluxed for 12 h. The solvent was evaporated and the crude product was dissolved in EtOAc, washed with aqueous NaHCO3. The solvent was removed and the crude product was purified by flash chromatography using 50% EtOAc in hexane to give (R)-4-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl benzoate in 74% yield. MS (ESI) 438 (M+H); Rf=2.60.

reactant | (R)-3-(7-chloro-4-((2,2,2-trifluoroethylamino)methyl)-1H-indazol-5-yl)-1-methoxy-1-oxopropan-2-yl benzoate | 16.5 mmol, 7.75 g | C(C1=CC=CC=C1)(=O)O[C@@H](C(=O)OC)CC=1C(=C2C=NNC2=C(C1)Cl)CNCC(F)(F)F | C21H19ClF3N3O4
reactant | toluene | 657 mmol, 70.00 ml | C1(=CC=CC=C1)C | C7H8
reactant | acetic acid | 20.96 mmol, 1.2 ml | C(C)(=O)O | C2H4O2
product | (R)-4-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl benzoate | 74% yield | C(C1=CC=CC=C1)(=O)O[C@@H]1CC2=C(C=3C=NNC3C(=C2)Cl)CN(C1=O)CC(F)(F)F | C20H15ClF3N3O3
